US08138175B2
F) (S)-4-(3-Chloro-4-trifluoromethyl-phenyl)-1-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-3-methyl-piperazin-2-one
A solution of (S)-1-{3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-4-(3-chloro-4-trifluoromethyl-phenyl)-3-methyl-piperazin-2-one (65 mg, 0.11 mmol) and hydrogen fluoride pyridine complex (70% HF; 0.26 mL) in CH3CN (3 mL) was heated at 50° C. for 16 h, then partitioned between EtOAc and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (IST Isolute® Flash NH2; EtOAc-MeOH gradient) afforded the title compound (29 mg, 56%) in a diastereomeric ratio of 97:3. Colourless gum, MS: 460.3 (M+H)+.

reactant | (S)-1-{3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-4-(3-chloro-4-trifluoromethyl-phenyl)-3-methyl-piperazin-2-one | 0.11 mmol, 65 mg | C(C)(C)(C)[Si](O[C@H]1C2(CC2)CCN(C1)CCCN1C([C@@H](N(CC1)C1=CC(=C(C=C1)C(F)(F)F)Cl)C)=O)(C)C | C28H43ClF3N3O2Si
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | (S)-4-(3-Chloro-4-trifluoromethyl-phenyl)-1-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-3-methyl-piperazin-2-one | 29 mg, 56% | ClC=1C=C(C=CC1C(F)(F)F)N1[C@H](C(N(CC1)CCCN1C[C@H](C2(CC2)CC1)O)=O)C | C22H29ClF3N3O2
